US05443971
6-Dimethoxymethyl-4-hydroxypyran-2-one may be reduced in methanol with hydrogen in the presence of a palladium on carbon catalyst to give 6-dimethoxymethyl-5,6-dihydro-4-hydroxy-pyran-2-one;

reactant | 6-Dimethoxymethyl-4-hydroxypyran-2-one | COC(C1=CC(=CC(O1)=O)O)OC | C8H10O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-dimethoxymethyl-5,6-dihydro-4-hydroxy-pyran-2-one | COC(C1CC(=CC(O1)=O)O)OC | C8H12O5
